US07718693B2
Methyl 1-cyclopentyl-5-oxoprolinate (0.560 g, 2.65 mmol) was dissolved in ethanol (10 ml) and cooled to 0° C. in an ice-bath. 2M aqueous sodium hydroxide (5 ml) was added and the mixture was stirred at ice temperature for 4 hrs. The ethanol was then evaporated under vacuum and the aqueous residue was acidified to pH1 by the addition of 2N aqueous hydrogen chloride. The volume of resulting aqueous mixture was reduced under vacuum to ˜3 ml and this was then extracted with a 3:1 mixture of chloroform and isopropanol respectively using a phase separator. The aqueous layer was washed with more dichloromethane and then the combined organic fractions were evaporated to give crude 1-cyclopentyl-5-oxoproline which was used in subsequent reactions without further purification.

reactant | Methyl 1-cyclopentyl-5-oxoprolinate | 2.65 mmol, 0.560 g | C1(CCCC1)N1[C@H](C(=O)OC)CCC1=O | C11H17NO3
reactant | sodium hydroxide | 2M, 5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1-cyclopentyl-5-oxoproline | C1(CCCC1)N1[C@H](C(=O)O)CCC1=O | C10H15NO3
